US08278457B2
Step 4. Synthesis of cis-2-(4-bromophenoxy)cyclopentanamine
A solution of cis-2-azidocyclopentyl 4-bromophenyl ether from the previous step (2.59 g, 9.18 mmol) in tetrahydrofuran (63 mL) and water (5.0 mL) was treated with polymer-supported triphenylphosphine (3 mmol/g, 7.15 g, 21.5 mmol). The reaction was stirred for 18 hours, then filtered through Celite®. The filter pad was rinsed with tetrahydrofuran, then with a mixture of methylene chloride and methanol, and the combined filtrates were concentrated in vacuo, and azeotroped with ethanol. The residue was purified by chromatography on silica gel (Gradient: 0% to 10% methanol in ethyl acetate) to afford product as a light brown oil. Yield: 1.43 g, 5.58 mmol, 61%. MS (APCI) m/z 257.9 (M+1). 1H NMR (400 MHz, CDCl3) δ 1.47 (br s, 2H), 1.56-1.68 (m, 2H), 1.78-1.88 (m, 2H), 1.91-1.99 (m, 2H), 3.35 (ddd, J=8.6, 7.0, 4.7 Hz, 1H), 4.42 (m, 1H), 6.80 (d, J=9.0 Hz, 2H), 7.37 (d, J=9.0 Hz, 2H).

reactant | cis-2-azidocyclopentyl 4-bromophenyl ether | BrC1=CC=C(C=C1)O[C@H]1[C@H](CCC1)N=[N+]=[N-] | C11H12BrN3O
reactant | water | 5.0 mL | O | H2O
reactant | triphenylphosphine | 21.5 mmol, 7.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 63 mL | O1CCCC1 | C4H8O
product | cis-2-(4-bromophenoxy)cyclopentanamine | BrC1=CC=C(O[C@@H]2[C@@H](CCC2)N)C=C1 | C11H14BrNO
